US08497264B2
In a microwave vial, sodium carbonate (0.094 g, 0.885 mmol), 2-fluoropyridin-4-ylboronic acid (0.048 g, 0.339 mmol), Pd(PPh3)4 (0.034 g, 0.030 mmol), and (S)-2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (0.139 g, 0.295 mmol) were suspended in DME (2.5 mL) and water (0.5 mL). Argon gas was blown through the vessel which was sealed and heated in an 80° C. oil bath. After 6 h, the reaction mixture was diluted with brine (10 mL) and the aqueous phase was extracted with 7.5% MeOH-dcm (3×25 mL). The organics were combined, washed with dilute brine (5 mL), dried over sodium sulfate and concentrated. The material was purified through silica gel (33 mL) using 3.5 to 4.5 to 7% MeOH-DCM to afford (R)-2′-bromo-7′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine

reactant | sodium carbonate | 0.885 mmol, 0.094 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluoropyridin-4-ylboronic acid | 0.339 mmol, 0.048 g | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | (S)-2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.295 mmol, 0.139 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)I)COCC(=N3)N | C16H12BrIN2O2
solvent | DME | 2.5 mL | COCCOC | C4H10O2
solvent | water | 0.5 mL | O | H2O
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 0.030 mmol, 0.034 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-2′-bromo-7′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C1=CC(=NC=C1)F)COCC(=N3)N | C21H15BrFN3O2
